US08168793B2
3-(4-(3,4-Dimethoxy-5-nitrophenyl)oxazol-2-yl)-2-(trifluoromethyl)pyridine 1-oxide (1.23 g, 3 mmol) was taken up in dichloromethane (25 mL). The yellowish suspension was cooled to −78° C. under argon and boron tribromide (2.55 mL, 27 mmol) was added dropwise. The red reaction mixture was allowed to warm to room temperature and stirred for 18 hours. It was then carefully poured into ice-water (100 mL) and stirred for 1 hour. The resulting yellow precipitate was filtered off, washed with water and dried over P2O5 under vacuum. The solid was recrystallized from ethanol to give 3-(4-(3,4-dihydroxy-5-nitrophenyl)oxazol-2-yl)-2-(trifluoromethyl)pyridine 1-oxide as a yellow solid, 0.65 g, (57%).

reactant | 3-(4-(3,4-Dimethoxy-5-nitrophenyl)oxazol-2-yl)-2-(trifluoromethyl)pyridine 1-oxide | 3 mmol, 1.23 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1N=C(OC1)C=1C(=[N+](C=CC1)[O-])C(F)(F)F | C17H12F3N3O6
reactant | boron tribromide | 27 mmol, 2.55 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-(4-(3,4-dihydroxy-5-nitrophenyl)oxazol-2-yl)-2-(trifluoromethyl)pyridine 1-oxide | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1N=C(OC1)C=1C(=[N+](C=CC1)[O-])C(F)(F)F | C15H8F3N3O6
